US09351965B2
A reaction mixture of 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid (0.025 mmol, 12.4 mg), HCl salt of 3-(2-fluorobenzyl)-3-methoxycyclohexanamine (0.025 mmol, 6.8 mg), HATU (0.025 mmol, 9.5 mg) and DIEA (0.1 mL) in DMA (0.5 mL) was stirred at room temperature for overnight. The product, N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide, was obtained after evaporation of solvent.

reactant | 3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxylic acid | 0.025 mmol, 12.4 mg | CC1=NC=CC(=C1)C1=NN(C2=CC=C(C=C12)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25N3O2
reactant | HCl | Cl | ClH
reactant | 3-(2-fluorobenzyl)-3-methoxycyclohexanamine | 0.025 mmol, 6.8 mg | FC1=C(CC2(CC(CCC2)N)OC)C=CC=C1 | C14H20FNO
reactant | HATU | 0.025 mmol, 9.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | N-(3-(2-fluorobenzyl)-3-methoxycyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(CC2(CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)OC)C=CC=C1 | C47H43FN4O2
